US05688809
5-Cyano-1-(3-formylindol-5-yl)benzimidazole
Phosphorus oxychloride (0.54 mL, 5.81 mmol, 1.5 eq) was added to dimethylformamide (10 mL) at room temperature, and to this solution was added 5-cyano-1-(indol-5-yl)benzimidazole (1.00 g, 3.87 mmol). The resulting reaction solution was heated at 40° C. under nitrogen for 2 hours. An aqueous solution of 10% sodium hydroxide (10 mL) was then added, followed by enough solid sodium hydroxide to adjust the pH to above 13. This mixture was heated at reflux under nitrogen for 1 hour, cooled, and the precipitated solid was filtered to afford the title compound (1.00 g, 90%) as an off-white solid. Mp, greater than 200° C.; IR (KBr) 2225, 1675 cm-1 ; 1H NMR (DMSO-d6) δ10.00 (s, 1H), 8.82 (s, 1H), 8.49 (s, 1H), 8.38 (d, J=0.7 Hz, 1H), 8.26 (d, J=2.0 Hz, 1H), 7.78 (d, J=8.6 Hz, 1H), 7.73 (dd, J=8.5 and 1.4 Hz, 1H), 7.67 (d, J=8.4 Hz, 1H), 7.54 (dd, J=8.6 and 2.2 Hz, 1H); LRMS (m/z, relative intensity) 287 (18), 286 (M+, 100), 258 (18), 230 (11). HRMS calculated for C17H10N4O: 286.0853. Found: 286.0870.

reactant | Phosphorus oxychloride | 5.81 mmol, 0.54 mL, 1.5 eq | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 5-cyano-1-(indol-5-yl)benzimidazole | 3.87 mmol, 1.00 g | C(#N)C1=CC2=C(N(C=N2)C=2C=C3C=CNC3=CC2)C=C1 | C16H10N4
reactant | sodium hydroxide | 10 mL | [OH-].[Na+]
reactant | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 5-Cyano-1-(3-formylindol-5-yl)benzimidazole | 1.00 g, 90% | C(#N)C1=CC2=C(N(C=N2)C=2C=C3C(=CNC3=CC2)C=O)C=C1 | C17H10N4O
